US04495187
This compound was prepared by the method of Example 11, utilizing 4-chloro-1-ethyl-[1,2,4]triazolo4,3-a]quinoxaline (the product of Example 4) as starting material in place of 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline (the product of Example 2) and diethylamine as reagent in place of di-n-propylamine. The crude product was recrystallized from cyclohexane to afford 3.54 g. (69% yield) of pure 4-diethylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline as a white solid (m.p. 98°-100° C.). Mass spectrum: m/e, 269 (P).

reactant | quinoxaline | N1=CC=NC2=CC=CC=C12 | C8H6N2
reactant | 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C9H5ClN4
reactant | diethylamine | C(C)NCC | C4H11N
reactant | di-n-propylamine | C(CC)NCCC | C6H15N
product | 4-diethylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 69% yield | C(C)N(C=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC)CC | C15H19N5
